US05972975
Step B: 4-Carboxy-2-acetylaminopyridine
In a 500 mL beaker fitted with a large Teflon coated magnetic stirrer bar was added 200 mL of water and 20 g (133 mmol) of 4-methyl-2-acetylaminopyridine. The solution temperature was raised to 85° C. and 46 g (291 mmol, 2.2 eq) of potassium permanganate was added portionwise over 1 h at such a rate that the solution temperature remained between 85-90° C. After permanganate addition was completed, the mixture was stirred for 30 min at 90° C. The mixture was then filtered through a bed of celite while still hot and then the filtrate volume was reduced by two thirds in vacuo. After cooling to room temperature, the mixture was again filtered through celite. The pH of the filtrate was adjusted to 4.5 with concentrated HCl. The water was removed in vacuo and the product recrystallized from water/ethanol to give 3.4 g of the title compound.

reactant | 4-methyl-2-acetylaminopyridine | 133 mmol, 20 g | CC1=CC(=NC=C1)NC(C)=O | C8H10N2O
reactant | potassium permanganate | 291 mmol, 46 g, 2.2 eq | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | permanganate | [Mn](=O)(=O)(=O)[O-]
reactant | water | 200 mL | O | H2O
product | 4-Carboxy-2-acetylaminopyridine | 3.4 g | C(=O)(O)C1=CC(=NC=C1)NC(C)=O | C8H8N2O3
